*Values
*Number:95787
*Units for the values: V, mA, kOhm and mS
*R1 = 1.02943118797 
*R2 = 2.01395929215 
*R3 = 3.04865352258 
*R4 = 4.00813564187 
*R5 = 3.14877356154 
*R6 = 2.0324721756 
*R7 = 1.02032682556 
*Va = 5.05481864136 
*Id = 1.02872173547 
*Kb = 7.12052712169 
*Kc = 8.12923323408 

* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

*independent voltage and current sources
Va 1 0 DC 5.05481864136
Id 7 5 DC 1.02872173547m
Vaux 8 6 DC 0

*dependent voltage and current sources
Hc 4 7 Vaux 8.12923323408k 
Gb 5 3 (2,4) 7.12052712169m 

*resistors
R1 1 2 1.02943118797k
R2 2 3 2.01395929215k
R3 2 4 3.04865352258k
R4 4 0 4.00813564187k
R5 4 5 3.14877356154k
R6 0 8 2.0324721756k
R7 6 7 1.02032682556k


.control


op

echo "******************************************"
echo  "Operating point"
echo "******************************************"



echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end

